US08580974B2
(R)-5-Biphenyl-4-ylmethyl-3-methylene-2-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester (4-a, R1=Boc) (509 mg) is dissolved in dichloromethane (10 ml). Mixture is cooled to 0° C. and trifluoroacetic acid (0.5 ml) is added. The mixture is then stirred for 2 h then extracted with saturated sodium carbonate solution (20 ml). Phases are separated. The organic phase is dried (MgSO4) and concentrated to give (R)-5-biphenyl-4-ylmethyl-3-methylenepyrrolidin-2-one (4-a, R1=H). δH (400 MHz, DMSO) 2.47 (1H), 2.68 (1H), 2.74 (1H), 2.87 (1H), 3.87 (1H), 5.22 (1H), 5.64 (1H), 7.33 (3H), 7.45 (2H), 7.60 (2H), 7.65 (2H), 8.32 (1H); m/z (+) 264 ([MH]+, 100%); m/z (+ESI) 264 ([MH]+, 100%).

reactant | (R)-5-Biphenyl-4-ylmethyl-3-methylene-2-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester | 509 mg | C(C)(C)(C)OC(=O)N1C(C(C[C@H]1CC1=CC=C(C=C1)C1=CC=CC=C1)=C)=O | C23H25NO3
reactant | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (R)-5-biphenyl-4-ylmethyl-3-methylenepyrrolidin-2-one | C1(=CC=C(C=C1)C[C@@H]1CC(C(N1)=O)=C)C1=CC=CC=C1 | C18H17NO
